US05605910
B. 1-Aminomethyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene
15.4 g (76.2 mmol) of 1-cyano-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione are reduced with LiAlH4 as described under Z 1-B and the mixture is worked up accordingly.

reactant | 1-cyano-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione | 76.2 mmol, 15.4 g | C(#N)C12C3C(NC(C3C(C=C1)CC2)=O)=O | C11H10N2O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 1-Aminomethyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene | NCC12C3CNCC3C(C=C1)CC2 | C11H18N2
